US06353017B1
To a solution of N-[2-[(3-carboxyphenyl)thiomethoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide (89 mg, 0.15 mmol) in acetone (5 mL) is added a solution of potassium peroxymonosulfate (Oxone®, 0.11 g, 0.18 mmol) in water (5 mL) at 0° C., and the solution is stirred at 0° C. for 40 minutes. 5% NaHSO4 (10 mL) is added, and the cloudy suspension is filtered. The solid is washed with water (50 mL), dried in vacuo, and then recrystalized (CH2Cl2, Et2O) to yield N-[2-[(3-carboxyphenyl)methanesulfinyl]-1(S)-cyanoethyl]-3-methyl-Nα-(2,2-diphenylacetyl-L-phenylalaninamide product, as a white solid, m.p. 170-171° C.

reactant | N-[2-[(3-carboxyphenyl)thiomethoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | 0.15 mmol, 89 mg | C(=O)(O)C=1C=C(C=CC1)SCOC[C@H](C#N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C35H33N3O5S
reactant | potassium peroxymonosulfate | 0.18 mmol, 0.11 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHSO4 | 10 mL | OS(=O)(=O)[O-].[Na+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | 2,2-diphenylacetyl-L-phenylalaninamide | C1(=CC=CC=C1)C(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C1=CC=CC=C1 | C23H22N2O2
